US07368578B2
To a solution of 1-methyl-4-phenyl-1H-imidazole-2-carbaldehyde (7.24 g) in tetrahydrofuran (50 mL)-ethanol (10 mL) was gradually added sodium borohydride (1.47 g) at room temperature and the mixture was stirred at room temperature for 30 min. Water was added to the reaction mixture and the precipitated crystals were collected by filtration to give (1-methyl-4-phenyl-1H-imidazol-2-yl)methanol as colorless crystals (5.71 g, yield 78%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 191-192° C.

reactant | 1-methyl-4-phenyl-1H-imidazole-2-carbaldehyde | 7.24 g | CN1C(=NC(=C1)C1=CC=CC=C1)C=O | C11H10N2O
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 1.47 g | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (1-methyl-4-phenyl-1H-imidazol-2-yl)methanol | 5.71 g, yield 78% | CN1C(=NC(=C1)C1=CC=CC=C1)CO | C11H12N2O
